US04508727
9.6 g of tert.-butyl (4S)-3-benzyloxycarbonyl-2-oxo-imidazolidine-4-carboxylate are dissolved in 200 ml of acetone, and 8.3 g of anhydrous potassium carbonate and 14.2 g of methyl iodide are added thereto. The mixture is stirred at room temperature for 6 days. The reaction mixture is treated in the same manner as described in Preparation 1-(2), whereby 9.0 g of tert.-butyl (4S)-1-methyl-3-benzyloxycarbonyl-2-oxo-imidazolidine-4-carboxylate are obtained as colorless crystals. Yield: 89.8% The physico-chemical properties of this product are identical with those of the sample obtained in Preparation 1-(2).

reactant | tert.-butyl (4S)-3-benzyloxycarbonyl-2-oxo-imidazolidine-4-carboxylate | 9.6 g | C(C1=CC=CC=C1)OC(=O)N1C(NC[C@H]1C(=O)OC(C)(C)C)=O | C16H20N2O5
reactant | potassium carbonate | 8.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 14.2 g | CI | CH3I
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | tert.-butyl (4S)-1-methyl-3-benzyloxycarbonyl-2-oxo-imidazolidine-4-carboxylate | 9.0 g, Yield: 89.8% | CN1C(N([C@@H](C1)C(=O)OC(C)(C)C)C(=O)OCC1=CC=CC=C1)=O | C17H22N2O5
